US06503949B1
A solution of N-butyl-4-nitrophthalimide (1.45 g, 5.8 mmol) in methanol (30 mL) was added drop wise to a well stirred solution of sodium dithionite (6.50 g, 37.1 mmol) and sodium carbonate (3.22 g, 30.5 mmol) in water (40 mL), while the temperature was maintained at 70° C. After addition, heating at 70° C. was continued for a further 30 minutes, then the reaction mixture was allowed to cool to room temperature. The reaction volume was reduced to one third by rotary evaporation, and the residual water solution was extracted with diethyl ether (2×50 mL). The combined organic phases were dried with anhydrous Na2SO4, and then taken to dryness. The residual oil was recrystallised from ethanol/water to give 750 mg (59%) of N-butyl-4-aminophthalimide.

reactant | N-butyl-4-nitrophthalimide | 5.8 mmol, 1.45 g | C(CCC)N1C(C=2C(C1=O)=CC(=CC2)[N+](=O)[O-])=O | C12H12N2O4
reactant | sodium dithionite | 37.1 mmol, 6.50 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium carbonate | 30.5 mmol, 3.22 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 40 mL | O | H2O
product | N-butyl-4-aminophthalimide | 750 mg, 59% | C(CCC)N1C(C=2C(C1=O)=CC(=CC2)N)=O | C12H14N2O2
